US05484804
A mixture of 1.5 g of (3aRS, 4RS, 5RS, 7aRS )-7,7-diphenyl-4-(2-methoxyphenyl )-2-[(2-benzyloxyphenyl)acetyl]perhydroisoindole-4,5-diol and 50 cm3 of ethanol is heated at 60° C. while stirring; 0.5 g of 20% strength palladium hydroxide-on-charcoal is added and the reaction mixture is then hydrogenated at a temperature of 60° C. and under atmospheric pressure, while stirring. After a reaction time of 45 minutes, the theoretical volume of hydrogen was absorbed; the reaction mixture is filtered and then concentrated to dryness under reduced pressure (2.7 kPa). The residue is crystallized from 20 cm3 of isopropyl ether. 0.8 g of (3aRS, 4RS, 5RS, 7aRS ) -7,7-diphenyl-4- (2-methoxyphenyl )-2-[(2-hydroxyphenyl)acetyl] perhydroisoindole-4,5-diol which melts at 188°-190° C. is obtained.

reactant | 7,7-diphenyl-4-(2-methoxyphenyl )-2-[(2-benzyloxyphenyl)acetyl]perhydroisoindole-4,5-diol | C1(=CC=CC=C1)C1(CC(C(C2CN(CC12)C(CC1=C(C=CC=C1)OCC1=CC=CC=C1)=O)(O)C1=C(C=CC=C1)OC)O)C1=CC=CC=C1 | C42H41NO5
solvent | ethanol | 50 cm3 | C(C)O | C2H6O
product | 7,7-diphenyl-4- (2-methoxyphenyl )-2-[(2-hydroxyphenyl)acetyl] perhydroisoindole-4,5-diol | C1(=CC=CC=C1)C1(CC(C(C2CN(CC12)C(CC1=C(C=CC=C1)O)=O)(O)C1=C(C=CC=C1)OC)O)C1=CC=CC=C1 | C35H35NO5
